US07485640B2
A suspension of 3-bromo-8-methoxyimidazo[1,2-a]pyrazine (1.6 g, 7 mmol) in hydrogen bromide (30 wt % in acetic acid, 15 ml) was heated at 80° C. for 90 min. The reaction was cooled, diluted with water (75 ml) then neutralised with solid sodium hydrogencarbonate. The resulting solid was collected by filtration, washed with water then dried under vacuum to afford 3-bromo-7H-imidazo[1,2-a]pyrazin-8-one as a white powder: δH (360 MHz, DMSO) 6.99 (1H, d, J 5.6), 7.29 (1H, d, J 5.6), 7.62 (1H, s). This powder was suspended in N,N-dimethylformamide (15 ml) then treated with sodium hydride (203 mg of a 60% dispersion in mineral oil, 8.4 mmol). The resulting mixture was heated at 60° C. for 20 min then treated with iodomethane (870 μl, 14 mmol). After stirring for 15 min the reaction was cooled, diluted cautiously with water (150 ml) and then extracted with dichloromethane (2×100 ml). The organics were combined, washed with water, dried over anhydrous magnesium sulphate, filtered and concentrated under high vacuum. The residue was triturated with diethyl ether and the resulting solid collected by filtration to furnish 3-bromo-7-methyl-7H-imidazo[1,2-a]pyrazin-8-one as a white solid (1.4 g, 88% over 2 steps): δH (360 MHz, DMSO) 3.45 (3H, s), 7.28 (1H, d, J 6), 7.39 (1H, d, J 5.6), 7.62 (1H, s).

reactant | 3-bromo-8-methoxyimidazo[1,2-a]pyrazine | 7 mmol, 1.6 g | BrC1=CN=C2N1C=CN=C2OC | C7H6BrN3O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | hydrogen bromide | 15 ml | Br | BrH
solvent | water | 75 ml | O | H2O
product | 3-bromo-7H-imidazo[1,2-a]pyrazin-8-one | BrC1=CN=C2N1C=CNC2=O | C6H4BrN3O
